US05192815
A reaction vessel fitted with a stirrer was charged with 50 g of 7-octenyl methacrylate, 250 mg of hydroquinone monomethyl ether and 1.5 cc of 1% chloroplatinic acid hexahydrate solution in tetrahydrofuran, and the mixture was heated to 40° C. To the mixture was added gradually 42 g of trichlorosilane with stirring, while the temperature of the mixture was kept at 45° C. or below. After the addition, the mixture was heated to 60° C. and reaction was conducted at this temperature for 1 hour to obtain 8-methacryloyloxyoctyltrichlorosilane.

reactant | 7-octenyl methacrylate | 50 g | C(C(=C)C)(=O)OCCCCCCC=C | C12H20O2
reactant | hydroquinone monomethyl ether | 250 mg | COC1=CC=C(O)C=C1 | C7H8O2
reactant | trichlorosilane | 42 g | Cl[SiH](Cl)Cl | Cl3HSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | chloroplatinic acid hexahydrate | 1.5 cc | O.O.O.O.O.O.[Cl-].[Cl-].[Cl-].[Cl-].[Pt+4]
product | 8-methacryloyloxyoctyltrichlorosilane | C(C(=C)C)(=O)OCCCCCCCC[Si](Cl)(Cl)Cl | C12H21Cl3O2Si
